US05366972
5-Acetyl-2-chloro-5,11-dihydro-11-ethyl-4-methyl-3-nitro-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one
To a solution of 5-acetyl-2-chloro-5,11-dihydro-11-ethyl-4-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one (3.36 g) in acetonitrile (20 mL) cooled on ice was added nitronium tetrafluoroborate (85%, 2.26 g). The mixture was removed from the ice bath and was stirred for 5 hours. The reaction then was quenched with 10% potassium carbonate. Ethyl acetate was added and the organic phase was separated, washed, dried, and evaporated. Chromatography over silica gel gave 0.71 g of the title compound, which crystallized from diisopropyl ether, m.p. 140-141.

reactant | 5-acetyl-2-chloro-5,11-dihydro-11-ethyl-4-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 3.36 g | C(C)(=O)N1C2=C(N(C3=C(C1=O)C=CC=N3)CC)N=C(C=C2C)Cl | C16H15ClN4O2
reactant | nitronium tetrafluoroborate | 2.26 g | F[B-](F)(F)F.O=[N+]=O
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 5-Acetyl-2-chloro-5,11-dihydro-11-ethyl-4-methyl-3-nitro-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 0.71 g | C(C)(=O)N1C2=C(N(C3=C(C1=O)C=CC=N3)CC)N=C(C(=C2C)[N+](=O)[O-])Cl | C16H14ClN5O4
